US04839351
5-Mercapto-7-methylimidazo[1,2-a]pyrimidine
In a similar way to Reference Example 1, using 5-chloro-7-methylimidazo[1,2-a]pyrimidine and potassium hydrogen sulfide, the title compound is obtained.

reactant | 5-chloro-7-methylimidazo[1,2-a]pyrimidine | ClC1=CC(=NC=2N1C=CN2)C | C7H6ClN3
reactant | potassium hydrogen sulfide | S.[K]
product | 5-Mercapto-7-methylimidazo[1,2-a]pyrimidine | SC1=CC(=NC=2N1C=CN2)C | C7H7N3S
